US06699859B1
f) 6-Chloro-3-phenyl-7-(pyrrolidin-1-yl)-1,2,4-triazolo[4,3- b]pyridazine
A slurry of N-benzylidene-N′-[6-chloro-5-(pyrrolidin-1-yl)pyridazin-3-yl]hydrazine (14 g, 0.046 mol) and lead(IV) acetate (24 g, 0.055 mol) in acetic acid (300 ml) was stirred at 60° C. under nitrogen overnight. The solvent was removed in vacuo, and the residue was purified by flash chromatography on silica gel, eluting with 0-10% methanol in ethyl acetate. The title compound was isolated as a yellow solid (4.1 g, 30%). 1H NMR (250 MHz, CDCl3) δ2.05 (4H, m), 3.56 (4H, m), 7.05 (1H, s), 7.51 (3H, m), 8.42 (2H, m). MS (ES+) m/e 300 [MH]+, 302 [MH]+.

reactant | N-benzylidene-N′-[6-chloro-5-(pyrrolidin-1-yl)pyridazin-3-yl]hydrazine | 0.046 mol, 14 g | C(C1=CC=CC=C1)=NNC=1N=NC(=C(C1)N1CCCC1)Cl | C15H16ClN5
reactant | lead(IV) acetate | 0.055 mol, 24 g | C(C)(=O)[O-].[Pb+4].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-]
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 6-Chloro-3-phenyl-7-(pyrrolidin-1-yl)-1,2,4-triazolo[4,3- b]pyridazine | ClC=1C(=CC=2N(N1)C(=NN2)C2=CC=CC=C2)N2CCCC2 | C15H14ClN5
